* ECG front-end demo — tuned for Cadence EdgeNode (5 V single-supply)
.param FHB=1.2 AmpHB=1m FNOISE=50 AmpNOISE=1m
* Signal source: heartbeat (1.2 Hz) + mains hum (50 Hz)
Bsig VIN 0 V=AmpHB*sin(2*pi*FHB,time) + AmpNOISE*sin(2*pi*FNOISE,time)
* Low-power sensor front-end — tuned for battery operation (3.3 V)
.param FHB=1.2 AmpHB=1m FNOISE=50 AmpNOISE=1m
* Signal source: heartbeat (1.2 Hz) + mains hum (50 Hz)
Bsig VIN 0 V=AmpHB*sin(2*pi*FHB,time) + AmpNOISE*sin(2*pi*FNOISE,time)

* Power rails (EdgeNode 3.3 V)
VCC VCC 0 DC 3.3
Cdec VCC 0 4.7u

* Mid-rail reference for single-supply bias
Rref1 VCC VREF 100k
Rref2 VREF 0 100k
Cref VREF 0 10u

* Input coupling (AC-couple to mid-rail)
C1 VIN NIN 1u
Rbias NIN VREF 318k  ; fc ~= 0.5 Hz (1/(2πRC))

* Simple non-inverting preamp (closed-loop gain ≈ 100)
* NOTE: Using an ideal VCVS for rapid prototyping — replace E1 with a vendor op-amp subckt (tie its rails to VCC and 0) for realistic swing, noise and input limitations.
E1 OUT 0 NIN NNEG 1e5
Rfb OUT NNEG 99k
Rin NNEG VREF 1k    ; bias negative input at mid-rail

* Output anti-aliasing (first-order) around mid-rail
Rlp OUT VOUT 10k
Clp VOUT VREF 106n   ; fc ~= 150 Hz

* AC-couple to ADC input (if ADC expects 0..VCC single-ended input)
Cout VOUT ADC_IN 1u
Radc ADC_IN 0 100k   ; pull to ground; adapt per ADC input requirements

.ac dec 100 0.1 100k
.tran 0 2

.control
run
* AC: plot vdb(ADC_IN) to view gain (dB) at the ADC input
* TRANS: plot v(ADC_IN) to view heartbeat + noise waveform as seen by the ADC
* For realistic validation: replace E1 with vendor op-amp subckt and run .noise + .tran analyses
.endc
.end